### PR TITLE
[Merged by Bors] - feat: bundled C^n maps supported in a fixed compact set

### PR DESCRIPTION
**Pull request by luigi-massacci**
Add a type of n-times continuously differentiable maps supported in a fixed compact set and related notation.
Co-authored by: @ADedecker 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 1]
```diff
@@ -0,0 +1,110 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Anatole Dedecker, Luigi Massacci
+-/
+
+import Mathlib.Analysis.Calculus.ContDiff.Defs
+import Mathlib.Topology.ContinuousMap.Bounded.Normed
+import Mathlib.Topology.Sets.Compacts
+
+/-!
+# Continuously differentiable functions supported in a compact
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
# Continuously differentiable functions supported in a given compact set
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+
+This file develops the basic theory of `n`-times continuously differentiable functions with support
+contained in a given compact.
+
+Given `n : ℕ∞`and a compact `K` of a normed space `E`, we consider the type of functions `f : E → F`
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
Given `n : ℕ∞` and a compact subset `K` of a normed space `E`, we consider the type of functions `f : E → F`
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+## Notation
+
+- `𝓓^{n}_{K}(E, F)`:  the space of `n`-times continuously differentiable functions `E → F`
+  which vanish outside of `K`.
+- `𝓓_{K}(E, F)`:  the space of smooth (infinitely differentiable) functions `E → F`
+  which vanish outside of `K`, i.e. `𝓓^{⊤}_{K}(E, F)`.
+
+## Implementation details
+
+Thes technical choice of spelling `EqOn f 0 Kᶜ` as opposed to `support f = K` is to make the
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
The technical choice of spelling `EqOn f 0 Kᶜ` as opposed to `support f = K` is to make the
```

Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: This is very vague: can you be more specific, please?
- you're spelling the second condition in the definition, right?
- "make development easier" says almost nothing: why is this better?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+
+open TopologicalSpace SeminormFamily Set Function Seminorm UniformSpace
+open scoped BoundedContinuousFunction Topology NNReal
+
+variable (𝕜 E F : Type*) [NontriviallyNormedField 𝕜]
+variable [NormedAddCommGroup E] [NormedSpace ℝ E]
+variable [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
+variable {n : ℕ∞} {K : Compacts E}
+
+/-- The type of `n`-times continuously differentiable maps which vanish outside of a fixed
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I'd also say "bundled" somewhere in here

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Important detail: you consider the type of *bundled* C^n functions

**Review by grunweg — COMMENTED** [review]
Thanks for getting this work started! Here are a first few minor comments (just about the docs so far).
Most importantly, this file defines a type of bundled functions (while we often use unbundled functions in mathlib). Can you mention why we do this, namely because this will be related to the space of test functions for defining distributions? Thanks!

**Comment by grunweg** [comment]
Should this PR be Co-authored-by: Anatole (or perhaps, adding an empty commit with him as the author)?

**Comment by luigi-massacci** [comment]
> Should this PR be Co-authored-by: Anatole (or perhaps, adding an empty commit with him as the author)?

The commit should already be there? It's [64effd6](https://github.com/leanprover-community/mathlib4/pull/30197/commits/64effd61d1cb1c00f61b5b8d2bfbb0466bc81c22).  But let me add it to the text description too to be clear.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+compact `K`. -/
+structure ContDiffMapSupportedIn (n : ℕ∞) (K : Compacts E) : Type _ where
+  /-- The underlying function. Use coercion instead. -/
+  protected toFun : E → F
+  protected contDiff' : ContDiff ℝ n toFun
+  protected zero_on_compl' : EqOn toFun 0 Kᶜ
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:77]: I would have expected this condition to be `tsupport toFun ⊆ K`. Is that more annoying to use?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+open scoped BoundedContinuousFunction Topology NNReal
+
+variable (𝕜 E F : Type*) [NontriviallyNormedField 𝕜]
+variable [NormedAddCommGroup E] [NormedSpace ℝ E]
+variable [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
+variable {n : ℕ∞} {K : Compacts E}
+
+/-- The type of `n`-times continuously differentiable maps which vanish outside of a fixed
+compact `K`. -/
+structure ContDiffMapSupportedIn (n : ℕ∞) (K : Compacts E) : Type _ where
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:73]: Here I would have assumed that we define it for arbitrary subsets and just use the assumption that `K` is compact whenever that is actually needed.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 3 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Yes I was referencing the condition in the definition. ~Let me put improving the comment on hold for a second~ (I added something anyway but I wouldn't focus on improving it as a priority) since I'm not sure the choice itself will survive review, so explaining it more in detail in the docstring might not make sense.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 5 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:77]: The choice to write it that way was made by @ADedecker a long time ago, maybe he has a more sophisticated explanation, but for myself, I certainly found it very convenient when working with integrals as it makes it much more direct to rewrite (eg: turn an integral over E to one over just K, etc), and my impression is that `tsupport` was a bit more awkward to use, though that might be be only an argument in favor of adding more API

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 6 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:73]: I'm not opposed to it, but I think the answer to "wherever it is actually needed" is "everywhere". Certainly the topology requires compactness. If K is not compact I'm not sure there is a lot more value in defining a separate structure (on which one can pile on instances) as opposed to just using `ContDiffOn` on an unbundled function.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 2 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I added a comment clarifying (I hope) as to why it's bundled. Re. "a compact `K`", I've been ruined by the French language : ( I didn't even realize in English it sounds weird.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:73]: I think the main point was indeed instances, because typeclass search does not work with extra non-instance parameters. Of course you could assume `[CompactSpace K]`, but I think this is a bit artificial.

Also, note that people will essentially never (I think?) have `K` be their favourite compact set: this will appear in the continuity criterion for distributions, so either you will have to work with arbitrary `K : Compacts E` or with a specific element of an exhaustion, both of which have essentially been proven compact already at this point.

(Although maybe we should make the `FunLike` instance of `CompactExhaustion` land in `Compacts` to make this even easier, but this can wait)

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:77]: Yes, this is precisely the point: while those are only a few rewrites away, this is the condition which is most elementary to manipulate IMHO. One key point is that we don't want to be constantly rewriting between `tsupport toFun ⊆ K` and `support toFun ⊆ K` (using that `K` is closed). 

Now, looking at the current state at the API for tsupport I can see that it is indeed much better than it was a few years ago (e.g we have docs#tsupport_iteratedFDeriv_subset), but I still think that this condition will be more natural in general.

Of course this could just be solved with API, so if you really prefer the *definition* to be in terms of `tsupport` this can be changed.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 7]
```diff
@@ -0,0 +1,121 @@
...
+
+We define it as a bundled structure so as to endow it with the topology required to make it a ù
+subspace of the space of test functions.
+
+## Main definitions
+
+- `ContDiffMapSupportedIn E F n K`: the type of `n`-times continuously differentiable
+  functions `E → F` which vanish outside of `K`.
+- `ContDiffMapSupportedIn.iteratedFDerivₗ'`: wrapper as a `𝕜`-linear maps for `iteratedFDeriv` on
+  `ContDiffMapSupportedIn E F n K`, as a map into `ContDiffMapSupportedIn E (E [×i]→L[ℝ] F) n-i K`.
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
  `ContDiffMapSupportedIn E F n K`, as a map into `ContDiffMapSupportedIn E (E [×i]→L[ℝ] F) (n-i) K`.
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 8]
```diff
@@ -0,0 +1,121 @@
...
+with support contained in a given compact.
+
+Given `n : ℕ∞` and a compact subset `K` of a normed space `E`, we consider the type of bundled
+functions `f : E → F` (where `F` is a normed vector space) such that:
+
+- `f` is `n`-times continuously differentiable: `ContDiff ℝ n f`.
+- `f` vanishes outside of a compact: `EqOn f 0 Kᶜ`.
+
+We define it as a bundled structure so as to endow it with the topology required to make it a ù
+subspace of the space of test functions.
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: There are a few more things that would be interesting to add (sorry for not helping earlier with the docstring...):
```suggestion
The main reason this exists as a bundled type is to be endowed with its natural locally convex topology
(namely, uniform convergence of `f` and its derivative up to order `n`). Taking the locally convex inductive
limit of these as `K` yields the natural topology on test functions, used to define distributions.

While most of distribution theory cares only about `C^∞` functions, we also want to endow the space of `C^n`
test functions with its natural topology. Indeed, distributions of order less than `n` are precisely those
which extend continuously to this larger space of test functions.
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 9]
```diff
@@ -0,0 +1,121 @@
...
+- `ContDiffMapSupportedIn E F n K`: the type of `n`-times continuously differentiable
+  functions `E → F` which vanish outside of `K`.
+- `ContDiffMapSupportedIn.iteratedFDerivₗ'`: wrapper as a `𝕜`-linear maps for `iteratedFDeriv` on
+  `ContDiffMapSupportedIn E F n K`, as a map into `ContDiffMapSupportedIn E (E [×i]→L[ℝ] F) n-i K`.
+
+## Main statements
+
+- `ContDiffMapSupportedIn.instIsUniformAddGroup` and
+  `ContDiffMapSupportedIn.instLocallyConvexSpace`: `ContDiffMapSupportedIn` is a locally convex
+  topological vector space.
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:44]: I don't think we're super fans of referencing theorems coming in future PRs, but in this case I think these are coming soon enough that it's fine.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 10]
```diff
@@ -0,0 +1,121 @@
...
+Given `n : ℕ∞` and a compact subset `K` of a normed space `E`, we consider the type of bundled
+functions `f : E → F` (where `F` is a normed vector space) such that:
+
+- `f` is `n`-times continuously differentiable: `ContDiff ℝ n f`.
+- `f` vanishes outside of a compact: `EqOn f 0 Kᶜ`.
+
+We define it as a bundled structure so as to endow it with the topology required to make it a ù
+subspace of the space of test functions.
+
+## Main definitions
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:31]: I would add to this section (maybe in a future PR) the definition of the topology, with an explanation of what it is ("uniform convergence of `f` and its derivatives up to order `n`).

**Review by ADedecker — APPROVED** [review]

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 9 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:44]: That was definitely a screw-up on my part, I must have had this branch checked out as opposed to the one for #30202

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 10 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:31]: That was the plan, it's https://github.com/leanprover-community/mathlib4/pull/30202, but I'll go ahead and push your description above right now, it makes sense anyway.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 11]
```diff
@@ -0,0 +1,127 @@
...
+
+namespace ContDiffMapSupportedIn
+
+instance toContDiffMapSupportedInClass :
+    ContDiffMapSupportedInClass 𝓓^{n}_{K}(E, F) E F n K where
+  coe f := f.toFun
+  coe_injective' f g h := by cases f; cases g; congr
+  map_contDiff f := f.contDiff'
+  map_zero_on_compl f := f.zero_on_compl'
+
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:127]:
```suggestion

variable {E F}

protected theorem contDiff (f : 𝓓^{n}_{K}(E, F)) : ContDiff ℝ n f := map_contDiff f
protected theorem zero_on_compl (f : 𝓓^{n}_{K}(E, F)) : EqOn f 0 Kᶜ := map_zero_on_compl f
protected theorem compact_supp (f : 𝓓^{n}_{K}(E, F)) : HasCompactSupport f :=
  .intro K.isCompact (map_zero_on_compl f)

@[simp]
theorem toFun_eq_coe {f : 𝓓^{n}_{K}(E, F)} : f.toFun = (f : E → F) :=
  rfl

/-- See note [custom simps projection]. -/
def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E →F  := f

-- this must come after the coe_to_fun definition.
initialize_simps_projections ContDiffMapSupportedIn (toFun → apply)

@[ext]
theorem ext {f g : 𝓓^{n}_{K}(E, F)} (h : ∀ a, f a = g a) : f = g :=
  DFunLike.ext _ _ h

/-- Copy of a `ContDiffMapSupportedIn` with a new `toFun` equal to the old one. Useful to fix
definitional equalities. -/
protected def copy (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : 𝓓^{n}_{K}(E, F) where
  toFun := f'
  contDiff' := h.symm ▸ f.contDiff
  zero_on_compl' := h.symm ▸ f.zero_on_compl

@[simp]
theorem coe_copy (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : ⇑(f.copy f' h) = f' :=
  rfl

theorem copy_eq (f : 𝓓^{n}_{K}(E, F)) (f' : E → F) (h : f' = f) : f.copy f' h = f :=
  DFunLike.ext' h

```
This is copy pasted from #30198, but I feel it fits into this PR better. If it's too annoying to reorganize between PRs you can ignore this suggestion.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 12]
```diff
@@ -0,0 +1,127 @@
...
+- `𝓓^{n}_{K}(E, F)`:  the space of `n`-times continuously differentiable functions `E → F`
+  which vanish outside of `K`.
+- `𝓓_{K}(E, F)`:  the space of smooth (infinitely differentiable) functions `E → F`
+  which vanish outside of `K`, i.e. `𝓓^{⊤}_{K}(E, F)`.
+
+## Implementation details
+
+The technical choice of spelling `EqOn f 0 Kᶜ` in the definition, as opposed to `tsupport f ⊆ K`
+is to make replacing `f` by zero outside of `K` easier.
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Nitpick:
```suggestion
is to make rewriting `f x` to `0` easier when `x ∉ K`.
```
(This is what you meant, right?)

Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Yep, thank you.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 11 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:127]: No issue at all, it's just the next PR after all, it's just one merge.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 3 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I think it should be acceptable now

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 13]
```diff
@@ -0,0 +1,162 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Anatole Dedecker, Luigi Massacci
+-/
+
+import Mathlib.Analysis.Calculus.ContDiff.Defs
+import Mathlib.Topology.ContinuousMap.Bounded.Normed
+import Mathlib.Topology.Sets.Compacts
+
+/-!
+# Continuously differentiable functions supported in a given compact
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
# Continuously differentiable functions supported in a given compact set
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 14]
```diff
@@ -0,0 +1,162 @@
...
+
+This file develops the basic theory of bundled `n`-times continuously differentiable functions
+with support contained in a given compact.
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
with support contained in a given compact set.
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 15]
```diff
@@ -0,0 +1,162 @@
...
+
+Given `n : ℕ∞` and a compact subset `K` of a normed space `E`, we consider the type of bundled
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:17]: Can or should this allow analytic functions, i.e. WithTop ℕ∞?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 16]
```diff
@@ -0,0 +1,162 @@
...
+functions `f : E → F` (where `F` is a normed vector space) such that:
+
+- `f` is `n`-times continuously differentiable: `ContDiff ℝ n f`.
+- `f` vanishes outside of a compact: `EqOn f 0 Kᶜ`.
+
+The main reason this exists as a bundled type is to be endowed with its natural locally convex
+topology (namely, uniform convergence of `f` and its derivative up to order `n`).
+Taking the locally convex inductive limit of these as `K` yields the natural topology on test
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: "as K" definitely reads wrong to me; this is better
```suggestion
Taking the locally convex inductive limit of these w.r.t. `K` yields the natural topology on test
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 17]
```diff
@@ -0,0 +1,162 @@
...
+functions, used to define distributions. While most of distribution theory cares only about `C^∞`
+functions, we also want to endow the space of `C^n` test functions with its natural topology.
+Indeed, distributions of order less than `n` are precisely those which extend continuously to this
+larger space of test functions.
+
+## Main definitions
+
+- `ContDiffMapSupportedIn E F n K`: the type of `n`-times continuously differentiable
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
- `ContDiffMapSupportedIn E F n K`: the type of bundled `n`-times continuously differentiable
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 18]
```diff
@@ -0,0 +1,162 @@
...
+  functions `E → F` which vanish outside of `K`.
+- `ContDiffMapSupportedIn.iteratedFDerivₗ'`: wrapper as a `𝕜`-linear maps for `iteratedFDeriv` on
+  `ContDiffMapSupportedIn E F n K`, as a map into
+  `ContDiffMapSupportedIn E (E [×i]→L[ℝ] F) (n-i) K`.
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
- `ContDiffMapSupportedIn.iteratedFDerivₗ'`: wraps `iteratedFDeriv` into a `𝕜`-linear map on
  `ContDiffMapSupportedIn E F n K`, as a map into
  `ContDiffMapSupportedIn E (E [×i]→L[ℝ] F) (n-i) K`.
```

Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: (plus line breaking, perhaps, to match the 100 character limit)

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:44]: Another option is putting these under TODO: then you can keep the doc-string, but you're not promising a non-existent theorem yet.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 19]
```diff
@@ -0,0 +1,162 @@
...
+distributions
+-/
+
+open TopologicalSpace SeminormFamily Set Function Seminorm UniformSpace
+open scoped BoundedContinuousFunction Topology NNReal
+
+variable (𝕜 E F : Type*) [NontriviallyNormedField 𝕜]
+variable [NormedAddCommGroup E] [NormedSpace ℝ E]
+variable [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
+variable {n : ℕ∞} {K : Compacts E}
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: This may be subjective, but (I believe) matches mathlib style better:
```suggestion
variable (𝕜 E F : Type*) [NontriviallyNormedField 𝕜]
  [NormedAddCommGroup E] [NormedSpace ℝ E]
  [NormedAddCommGroup F] [NormedSpace ℝ F] [NormedSpace 𝕜 F] [SMulCommClass ℝ 𝕜 F]
  {n : ℕ∞} {K : Compacts E}
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 20]
```diff
@@ -0,0 +1,162 @@
...
+
+/-- The type of bundled `n`-times continuously differentiable maps which vanish outside of a fixed
+compact `K`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
compact set `K`. -/
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 21]
```diff
@@ -0,0 +1,162 @@
...
+structure ContDiffMapSupportedIn (n : ℕ∞) (K : Compacts E) : Type _ where
+  /-- The underlying function. Use coercion instead. -/
+  protected toFun : E → F
+  protected contDiff' : ContDiff ℝ n toFun
+  protected zero_on_compl' : EqOn toFun 0 Kᶜ
+
+/-- Notation for the space of bundled `n`-times continuously differentiable
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:79]: Another (perhaps better) option: use `inherit_doc` here, and augment the declaration's doc-string to mention this notation (scoped to the `Distributions` namespace).

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 22]
```diff
@@ -0,0 +1,162 @@
...
+functions with support in a compact `K`. -/
+scoped[Distributions] notation "𝓓^{" n "}_{"K"}(" E ", " F ")" =>
+  ContDiffMapSupportedIn E F n K
+
+/-- Notation for the space of bundled smooth (inifinitely differentiable)
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:84]: This one can perhaps stay, or you can use `inherit_doc` also.
```suggestion
/-- Notation for the space of bundled smooth (infinitely differentiable)
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 23]
```diff
@@ -0,0 +1,162 @@
...
+functions with support in a compact `K`. -/
+scoped[Distributions] notation "𝓓_{"K"}(" E ", " F ")" =>
+  ContDiffMapSupportedIn E F ⊤ K
+
+open Distributions
+
+/-- `ContDiffMapSupportedInClass B E F n K` states that `B` is a type of bundled `n`-times
+continously differentiable functions with support in the compact `K`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
continously differentiable functions with support in the compact set `K`. -/
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 24]
```diff
@@ -0,0 +1,162 @@
...
+protected theorem zero_on_compl (f : 𝓓^{n}_{K}(E, F)) : EqOn f 0 Kᶜ := map_zero_on_compl f
+protected theorem compact_supp (f : 𝓓^{n}_{K}(E, F)) : HasCompactSupport f :=
+  .intro K.isCompact (map_zero_on_compl f)
+
+@[simp]
+theorem toFun_eq_coe {f : 𝓓^{n}_{K}(E, F)} : f.toFun = (f : E → F) :=
+  rfl
+
+/-- See note [custom simps projection]. -/
+def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E →F  := f
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E → F := f
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 25]
```diff
@@ -0,0 +1,162 @@
...
+
+-- this must come after the coe_to_fun definition.
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Is this a typo? We don't have a declaration `coe_to_fun`.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 26]
```diff
@@ -0,0 +1,162 @@
...
+  ContDiffMapSupportedIn E F n K
+
+/-- Notation for the space of bundled smooth (inifinitely differentiable)
+functions with support in a compact `K`. -/
+scoped[Distributions] notation "𝓓_{"K"}(" E ", " F ")" =>
+  ContDiffMapSupportedIn E F ⊤ K
+
+open Distributions
+
+/-- `ContDiffMapSupportedInClass B E F n K` states that `B` is a type of bundled `n`-times
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:91]: Can you say briefly why you're adding this class? Is this merely analogous to other morphism classes; where do you use this in your distributions branch?

**Review by grunweg — COMMENTED** [review]
I took another pass over the code: just very minor comments (and one question for my own understanding).

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 15 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:17]: I am 0.5 < p < 1 sure that the only analytic compactly supported map is the zero map

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 9 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:44]: Sounds good

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 14 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Crikey, I thught I had fixed that. I think it should be ok everywhere now.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 16 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I think Anatole meant to write "as K varies". I changed it to that (I like it better than wrt though I'm not sure I can articulate why 100%)

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 25 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: This is a "I inherited it from @ADedecker , and having no idea of how `simps` works beyond the docstring, it seemed prudent to keep something that looks like a warning". However if I had to speculate à la Sherlock Holmes, I would guess Anatole copy-pasted it from `ContinuousMapClass` which has had that note since lean3, which I guess we can now infer should be changed and should probably refer to `CoeFun` instead. I think the warning remains valid here too (assuming it is generally), and could be changed to something like "after the `FunLike` instance"?

Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Though empirically, moving it before doesn't seem to break anything

Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Shall I ask on Zulip?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 26 above)
Comment (luigi-massacci) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:91]: I don't use this anywhere except in the three instances just below. I thought adding the typeclass regardless was good practice? I vaguely remember someone authoritative saying something along those lines, but I have no objection to deleting it and changing the `BoundedContinuousMapClass` and `ContinuousMapClass`, etc, instances to refer directly to `ContDiffMapSupportedIn`.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 15 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:17]: Indeed: an analytic test function is zero on an open set, hence everywhere thanks to [AnalyticOnNhd.eq_of_eventuallyEq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Analytic/Uniqueness.html#AnalyticOnNhd.eq_of_eventuallyEq)

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 25 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Indeed this is very probably code copy pasted from somewhere else. The best approach is probably to copy paste and adapt more modern code.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 26 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:91]: I agree that this class is very probably not useful, but I'm okay with both keeping it (for consistency with other morphism classes) or removing it.

Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:91]: I'm also fine with keeping it.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 27]
```diff
@@ -0,0 +1,163 @@
...
+protected theorem zero_on_compl (f : 𝓓^{n}_{K}(E, F)) : EqOn f 0 Kᶜ := map_zero_on_compl f
+protected theorem compact_supp (f : 𝓓^{n}_{K}(E, F)) : HasCompactSupport f :=
+  .intro K.isCompact (map_zero_on_compl f)
+
+@[simp]
+theorem toFun_eq_coe {f : 𝓓^{n}_{K}(E, F)} : f.toFun = (f : E → F) :=
+  rfl
+
+/-- See note [custom simps projection]. -/
+def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E →F := f
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
def Simps.apply (f : 𝓓^{n}_{K}(E, F)) : E → F := f
```

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 25 above)
Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I compared with mathlib: it seems we can just delete the comment.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 28]
```diff
@@ -0,0 +1,163 @@
...
+
+-- this must come after the coe_to_fun definition.
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]:
```suggestion
```

**Review by grunweg — COMMENTED** [review]
Can you fix my two style comments and perhaps use inherit_doc, and then this is good?
maintainer delegate

**Comment by grunweg** [comment]
I decided to be slightly pushy and applied my style tweaks myself. Feel free to revert any that you disagree with!

**Comment by grunweg** [comment]
maintainer delegate

**Comment by RemyDegenne** [comment]
bors d+
